### PR TITLE
[Merged by Bors] - feat(FieldTheory/SplittingField/IsSplittingField): add IsScalarTower.splits, IsScalarTower.isAlgebraic

### PR DESCRIPTION
**Pull request by mariainesdff**
Co-authored-by: @faenuccio

---

- [x] depends on: #26666

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/SplittingField/IsSplittingField.lean [hunk 1]
```diff
@@ -81,6 +81,12 @@ theorem splits_iff (f : K[X]) [IsSplittingField K L f] :
         rw [RingEquiv.toRingHom_trans]
         exact splits_comp_of_splits _ _ (splits L f)⟩
 
+theorem IsScalarTower.splits (x : K) [IsSplittingField K L (mapAlg F K (minpoly F x))] :
+    Splits (RingHom.id L) (mapAlg F L (minpoly F x)) := by
```
Comment (tb65536) [inline Mathlib/FieldTheory/SplittingField/IsSplittingField.lean]: Does this generalize to polynomials other than `minpoly F x`?

Comment (mariainesdff) [reply Mathlib/FieldTheory/SplittingField/IsSplittingField.lean]: Yes, thanks; I have replaced it this lemma by the generalization.

File: Mathlib/FieldTheory/SplittingField/IsSplittingField.lean [hunk 2]
```diff
@@ -81,6 +81,13 @@ theorem splits_iff (f : K[X]) [IsSplittingField K L f] :
         rw [RingEquiv.toRingHom_trans]
         exact splits_comp_of_splits _ _ (splits L f)⟩
 
+theorem IsScalarTower.splits (f : F[X]) (x : K) [IsSplittingField K L (mapAlg F K f)] :
+    Splits (RingHom.id L) (mapAlg F L f) := by
+  have := minpoly F x
+  rw [Polynomial.mapAlg_comp K L f, mapAlg_eq_map, splits_map_iff,
+    RingHomCompTriple.comp_eq]
+  exact IsSplittingField.splits _ _
```
Comment (tb65536) [inline Mathlib/FieldTheory/SplittingField/IsSplittingField.lean]:
```suggestion
theorem IsScalarTower.splits (f : F[X]) [IsSplittingField K L (mapAlg F K f)] :
    Splits (RingHom.id L) (mapAlg F L f) := by
  rw [mapAlg_comp K L f, mapAlg_eq_map, splits_id_iff_splits]
  apply IsSplittingField.splits
```

File: Mathlib/FieldTheory/SplittingField/IsSplittingField.lean [hunk 3]
```diff
@@ -121,6 +128,12 @@ theorem finiteDimensional (f : K[X]) [IsSplittingField K L f] : FiniteDimensiona
       if hf : f = 0 then by rw [hf, rootSet_zero] at hy; cases hy
       else IsAlgebraic.isIntegral ⟨f, hf, (mem_rootSet'.mp hy).2⟩⟩
 
+theorem IsScalarTower.isAlgebraic [Algebra F K] [Algebra F L] [Algebra.IsAlgebraic F K]
+    [IsScalarTower F K L] (x : K) [IsSplittingField K L (mapAlg F K (minpoly F x))] :
+    Algebra.IsAlgebraic F L := by
+  let _ : FiniteDimensional K L := IsSplittingField.finiteDimensional _ (mapAlg F K (minpoly F x))
+  exact Algebra.IsAlgebraic.trans F K L
```
Comment (tb65536) [inline Mathlib/FieldTheory/SplittingField/IsSplittingField.lean]: This one can also be generalized.
```suggestion
theorem IsScalarTower.isAlgebraic [Algebra F K] [Algebra F L] [Algebra.IsAlgebraic F K]
    [IsScalarTower F K L] (f : K[X]) [IsSplittingField K L f] :
    Algebra.IsAlgebraic F L := by
  have : FiniteDimensional K L := IsSplittingField.finiteDimensional L f
  exact Algebra.IsAlgebraic.trans F K L
```

Comment (tb65536) [reply Mathlib/FieldTheory/SplittingField/IsSplittingField.lean]: (I'm not sold on the utility of this one, since it's basically just "splitting field of algebraic extension is algebraic" but there are other combinations like "algebraic extension of splitting field is algebraic", "splitting field of splitting field is algebraic").

**Comment by tb65536** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
